US04671819
(a) 2-(3,3,3-Trifluoropropyl)-phenysulfonamide
A mixture of 50.2 g of 2-(3,3,3-trifluoro-1-propenyl)-phenylsulfonamide, 500 ml of ethyl acetate and 5 g of a 5% Pd/C catalyst is shaken for 1/2 hour at 20°-25° C. in a hydrogen atmosphere. The catalyst is then filtered off, the mixture is concentrated by evaporation, and the residue is crystallised from a mixture of methylene chloride and ether to thus yield 49.6 g of 2-(3,3,3-trifluoropropyl)-phenylsulfonamide, m.p. 148°-149° C.

reactant | 2-(3,3,3-trifluoro-1-propenyl)-phenylsulfonamide | 50.2 g | FC(C=CC1=C(C=CC=C1)S(=O)(=O)N)(F)F | C9H8F3NO2S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,3,3-Trifluoropropyl)-phenysulfonamide | FC(CCC1=C(C=CC=C1)S(=O)(=O)N)(F)F | C9H10F3NO2S
